US07795326B2
Preparation of Poly(TRIS/NIPAM/tridecyl methacrylate)—3/1/0.2 parts by weight
A 25 ml reaction vessel was charged with 12 g ethyl acetate, 2.85 g (0.007 mol) TRIS, 0.95 g (0.008 mol) NIPAM, 0.21 g (0.0008 mol) tridecyl methacrylate, and 0.078 g. 2,2′-azobis(2-methylbutanenitrile). After nitrogen flushing for 3 minutes, the vessel was closed and placed in an oil bath. The polymerization was run for 17.5 hours at 76° C. The polymer was precipitated into deionized water, dried at room temperature (20° C.), dissolved in acetone and precipitated into deionized water. The purified polymer was heated at 50° C. to remove bound water. Upon mixing the polymer with HMDS and casting a film, the film had an elongation of 10%. Upon addition of 2 wt % sucrose acetate isobutyrate to the polymer (10 wt %) in HMDS, the cast films had an elongation of greater than 250% without an increase in tack.

reactant | NIPAM | 0.008 mol, 0.95 g | CC(C)NC(=O)C=C | C6H11NO
reactant | tridecyl methacrylate | 0.0008 mol, 0.21 g | C(C(=C)C)(=O)OCCCCCCCCCCCCC | C17H32O2
reactant | 2,2′-azobis(2-methylbutanenitrile) | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
solvent | ethyl acetate | 12 g | C(C)(=O)OCC | C4H8O2
product | NIPAM tridecyl methacrylate | CC(C)NC(=O)C=C.C(C(=C)C)(=O)OCCCCCCCCCCCCC | InChI=1S/C17H32O2.C6H11NO/c1-4-5-6-7-8-9-10-11-12-13-14-15-19-17(18)16(2)3;1-4-6(8)7-5(2)3/h2,4-15H2,1,3H3;4-5H,1H2,2-3H3,(H,7,8)
